US07338973B2
1-[8(tert-butyl-dimethyl-silanyloxy)-6H-5-thia-1-aza-benzo[a]fluoren-11-yl]-ethanone
8-(tert-Butyl-dimethyl-silanyloxy)-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene (170 mg, 0.462 mmoL) in DMF (2 mL) was treated with NaH (60%, 37 mg, 0.925 mmoL) at 0° C. Acetyl chloride (52 mg, 0.693 mmoL) was added dropwise into the reaction 30 minutes later. The reaction mixture was than slowly warmed to room temperature over 2 hours. The reaction was quenched with saturated NH4Cl. The residue was partitioned between CH2Cl2 and saturated NaHCO3. The aqueous phase was extracted two times with CH2Cl2. The organic layer from each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The oil was then purified by column chromatography (silica gel, hexanes:EtOAc 5:1 as eluent) to yield the title compound as a pale solid.

reactant | 8-(tert-Butyl-dimethyl-silanyloxy)-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | 170 mg | C(C)(C)(C)[Si](OC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=C4)(C)C | C21H25NOSSi
reactant | NaH | 37 mg | [H-].[Na+]
reactant | Acetyl chloride | 52 mg | C(C)(=O)Cl | C2H3ClO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[8(tert-butyl-dimethyl-silanyloxy)-6H-5-thia-1-aza-benzo[a]fluoren-11-yl]-ethanone | C(C)(C)(C)[Si](OC=1C=C2C=3CSC4=C(C3C(C2=CC1)C(C)=O)N=CC=C4)(C)C | C23H27NO2SSi
